US09193720B2
A mixture of (S)-ethyl 2-(5-(4-(benzyloxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.0224 g, 0.040 mmol) and LiOH (9.60 mg, 0.401 mmol) in 9:1 EtOH/H2O (2 mL) was refluxed for 3 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(5-(4-(benzyloxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetic acid (0.018 g, 0.034 mmol, 85% yield) as white solid. 1H NMR (400 MHz, CDCl3) δ 7.32-7.49 (m, 5H), 7.12-7.16 (m, 1H), 6.97-7.08 (m, 3H), 5.65 (br. s., 1H), 5.09-5.18 (m, 2H), 2.81 (s, 3H), 2.29 (s, 3H), 1.23-1.38 (m, 4H), 1.20 (s, 9H), 0.77 (br. s., 6H). 4H of piperidine were not resolved. LCMS (M+H)=531.4.

reactant | (S)-ethyl 2-(5-(4-(benzyloxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.040 mmol, 0.0224 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C35H46N2O4
reactant | LiOH | 0.401 mmol, 9.60 mg | [Li+].[OH-]
solvent | EtOH H2O | 2 mL | CCO.O
product | (S)-2-(5-(4-(benzyloxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetic acid | 0.034 mmol, 0.018 g, 85% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(=C(C(=NC1C)C)[C@@H](C(=O)O)OC(C)(C)C)N1CCC(CC1)(C)C | C33H42N2O4
